US04409214
Vilsmeir reagent, which was prepared from N,N-dimethylformamide (0.48 g) and phosphorus oxychloride (1.0 g), was suspended in ethyl acetate (20 ml), and thereto was added 4-bromo-2-methoxyiminoacetoacetic acid (syn isomer) (1.34 g) under ice-cooling, followed by stirring at the same temperature for half an hour to prepare the activated acid solution. This solution was added to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (2.15 g) and trimethylsilylacetamide (3.93 g) in ethyl acetate (30 ml) at -20° C., and the mixture was stirred at -20° to 0° C. for 1.5 hours. To the reaction mixture was added ethyl acetate (100 ml) and water (100 ml), and the separated ethyl acetate solution was washed with a saturated aqueous sodium bicarbonate and an aqueous sodium chloride, followed by drying over anhydrous magnesium sulfate. Removal of the solvent gave a residue, which was washed with diethyl ether to obtain benzhydryl 7-(4-bromo-2-methoxyiminoacetoacetamido)-3-vinyl-3-cephem-4 -carboxylate (syn isomer) (2.5 g).

reactant | phosphorus oxychloride | 1.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-bromo-2-methoxyiminoacetoacetic acid | 1.34 g | BrCC(C(C(=O)O)=NOC)=O | C5H6BrNO4
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 2.15 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 3.93 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 0.48 g | CN(C=O)C | C3H7NO
product | benzhydryl 7-(4-bromo-2-methoxyiminoacetoacetamido)-3-vinyl-3-cephem-4 -carboxylate | 2.5 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC)=O | C27H24BrN3O6S
